US07041697B2
N-{[(2S)-8-ethoxy-2,3-dihydro-1,4-benzodioxin-2-yl]methyl}-N-[(trans)-3-(5-fluoro-1H-indol-3-yl)cyclopentyl]amine
This compound was prepared in the same manner as for Example 1, using [(2R)-8-ethoxy-2,3-dihydro-benzo[1,4]dioxin-2-yl]methyl 4-methylbenzenesulfonate (0.25 g, 0.68 mmol) and trans-3-(5-fluoro-1H-indol-3-yl)-cyclopentylamine (0.3 g, 1.38 mmol) to afford 0.16 g (64%) of the title compound as its hydrochloride salt: MS (ESI) m/z 411 [M+H]+.

reactant | [(2R)-8-ethoxy-2,3-dihydro-benzo[1,4]dioxin-2-yl]methyl 4-methylbenzenesulfonate | 0.68 mmol, 0.25 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=CC=C2)OCC | C18H20O6S
reactant | trans-3-(5-fluoro-1H-indol-3-yl)-cyclopentylamine | 1.38 mmol, 0.3 g | FC=1C=C2C(=CNC2=CC1)[C@@H]1C[C@H](CC1)N | C13H15FN2
product | N-{[(2S)-8-ethoxy-2,3-dihydro-1,4-benzodioxin-2-yl]methyl}-N-[(trans)-3-(5-fluoro-1H-indol-3-yl)cyclopentyl]amine | 0.16 g, 64% | C(C)OC1=CC=CC2=C1O[C@H](CO2)CN[C@@H]2C[C@H](CC2)C2=CNC1=CC=C(C=C21)F | C24H27FN2O3
